US05384318
Cis-3-[[6-[(5-fluoro-2-benzothiazolyl)methoxy]-3,4-dihydro-4-hydroxy-2H-1-benzopyran-3-yl]methyl]-N-(2-thiazolyl)benzamide
Synthesis was carried out as in example 1, but using 1.43 grams 2-aminothiazole instead of methane sulfonamide, and using 1.17 grams cis-4-nitrophenyl-3-[[6-[(5-fluoro-2-benzothiazolyl)methoxy]-3,4-dihydro-4-hydroxy-2H-1-benzopyran-3-yl]methyl]benzoate. There was obtained 145 milligrams of product, m.p. 120° C.

reactant | 2-aminothiazole | 1.43 grams | NC=1SC=CN1 | C3H4N2S
reactant | cis-4-nitrophenyl-3-[[6-[(5-fluoro-2-benzothiazolyl)methoxy]-3,4-dihydro-4-hydroxy-2H-1-benzopyran-3-yl]methyl]benzoate | 1.17 grams | [N+](=O)([O-])C1=CC=C(C=C1)C1=C(C(=O)[O-])C=CC=C1C[C@@H]1COC2=C([C@@H]1O)C=C(C=C2)OCC=2SC1=C(N2)C=C(C=C1)F
product | Cis-3-[[6-[(5-fluoro-2-benzothiazolyl)methoxy]-3,4-dihydro-4-hydroxy-2H-1-benzopyran-3-yl]methyl]-N-(2-thiazolyl)benzamide | 145 milligrams | FC=1C=CC2=C(N=C(S2)COC=2C=CC3=C([C@@H]([C@@H](CO3)CC=3C=C(C(=O)NC=4SC=CN4)C=CC3)O)C2)C1 | C28H22FN3O4S2
